US03974161
A. 2-Aminoquinoline-3-Carboxamide
Cyanoacetamide (19.4 g., 0.23 mole) is added to a solution of sodium ethoxide (6.65 g., 0.29 mole) in absolute ethanol (460 ml.) maintained at 50° C. The mixture is stirred and o-aminobenzaldehyde (28.0 g., 0.23 mole) in absolute ethanol (100 ml.) added. After fifteen minutes stirring at 50° C., the reaction mixture is cooled in an ice bath, filtered and dried to give 34.5 g. (84% yield) of product; m.p. 240°-242° C.

reactant | Cyanoacetamide | 0.23 mole, 19.4 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium ethoxide | 0.29 mole, 6.65 g | [O-]CC.[Na+]
reactant | o-aminobenzaldehyde | 0.23 mole, 28.0 g | NC1=C(C=O)C=CC=C1 | C7H7NO
solvent | ethanol | 460 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Aminoquinoline-3-Carboxamide | 84% yield | NC1=NC2=CC=CC=C2C=C1C(=O)N | C10H9N3O
